US07205306B2
3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-methylpropyl-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dichloro-1-methylpropyl-2(1H)-pyrazinone and 5-bromo-7-chloroindoline as the starting materials. mp 150° C.; 1H NMR (300 MHz, CDCl3): δ 7.32 (d, J=1.8 Hz, 1 H), 7.26 (d, J=1.9 Hz, 1 H), 6.85 (s, 1 H), 4.97–4.90 (m, 1 H), 4.34 (t, J=8.1 Hz, 2 H), 3.13 (t, J=7.9 Hz, 2 H), 1.77–1.70 (m, 2 H), 1.36 (d, J=7.0 Hz, 3 H), 0.91 (t, J=7.3 Hz, 3 H); HRMS (ESI) calcd for C16H17N3OBrCl2 (M+H)+: 415.9932; Found m/z 415.9943.

reactant | 3,5-dichloro-1-methylpropyl-2(1H)-pyrazinone | ClC=1C(N(C=C(N1)Cl)C(CC)C)=O | C8H10Cl2N2O
reactant | 5-bromo-7-chloroindoline | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
product | 3-(5-Bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-5-chloro-1-methylpropyl-2(1H)-pyrazinone | BrC=1C=C2CCN(C2=C(C1)Cl)C=1C(N(C=C(N1)Cl)C(CC)C)=O | C16H16BrCl2N3O
